Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
double vision
 
Major Surgical or Invasive Procedure:
lumbar puncture

 
History of Present Illness:
The patient is a ___ year old left-handed man with a history of
polysubstance use disorder (heroin and cocaine) who presents 
with
sudden onset horizontal diplopia. 

The patient states that he voluntarily committed himself to a
detox program at ___ in ___ on ___. He was initially
admitted to the medical ward where he received clonidine,
Tylenol, and Immodium for withdrawal symptoms. He notes 3
episodes of diarrhea during this time but no recent URI or other
somatic complaints. 

Yesterday afternoon, after being medically cleared, he was ready
to move to a different area within the facility. Before doing 
so,
at approximately 4:30 ___, he noticed sudden onset diplopia while
playing checkers. He denies any antecedent trauma. Those around
him commented on a "lazy eye." He was advised by one of the
supervisors at the facility to take a shower and see if things
resolved. He did so but his diplopia persisted. He was
subsequently evaluated by the medical team at the facility and
then sent to ___ for further evaluation. There he
underwent NCHCT which was unrevealing. Labs notable for WBC 13.0
and AST 45 but otherwise unrevealing. Due to the lack of
ophthalmology consultation services at ___, he was
transferred to ___ for further management. 

In characterizing the diplopia, he states that the double vision
is purely horizontal and resolves with closing of either eye. 
The
diplopia is more pronounced in the distance rather than close 
up.
He is unable to state whether looking in one direction or 
another
affects his symptoms. There has been no fluctuation in his
symptoms and he denies any associated pain with movement of the
eyes.

On neurological ROS, the patient denies headache, loss of 
vision,
blurred vision, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Endorses mild gait unsteadiness when walking which improves with
closing of either eye.

On general review of systems, the patient denies recent fever or
chills.  Endorses sweats and weight loss in the setting of 
detox.
Denies cough. Mild shortness of breath and improving 
palpitations
which he attributes to anxiety in the setting of his current
illness. Denies chest pain or tightness.  Denies nausea,
vomiting, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.
 
Past Medical History:
Polysubstance use disorder. Last sniffed heroin 7 days ago.
Denies any intravenous use of any drugs. Last cocaine use was
also 7 days ago. He notes a ___ year period of sobriety prior to
starting to use again roughly ___ year ago.
 
Social History:
___
Family History:
Father currently institutionalized but the patient thinks he had
strokes in his early ___. Mother is on methadone, recovering 
from
opioid addiction, no neurological problems. He has an older
brother and sister both of whom are healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
===============================
Vitals: T 97.1, HR 71, BP 117/79, RR 16, Sa 100% on RA
General: Awake, cooperative, slightly anxious.
HEENT: Poor dentition. NC/AT, no scleral icterus noted, MMM, no
lesions noted in oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Breathing non labored on room air 
Cardiac: Warm and well perfused. No murmurs appreciated.
Abdomen: Soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to person, place, time 
and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to name both high and low
frequency objects.  Able to read without difficulty - though
states diplopia is worse with reading 6 feet away compared to 1
foot away. Able to follow both midline and appendicular 
commands.
The patient had good knowledge of current events. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. Acuity ___ ___. VFF to
confrontation. Fundoscopic exam performed, revealed crisp disc
margins with no papilledema, exudates, or hemorrhages.
III, IV, VI: There is a left lateral rectus palsy on primary 
gaze
with inability to fully ABDuct the left eye on leftward gaze. 
EOM
full in the right eye.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically. No dysarthria.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP  Quad  Ham TA  ___
L  5    ___   5    ___    5    5   5     5     5
R  5    ___   5    ___    5    5   5     5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: There is slight dysmetria ___ on FNF which 
resolves
with closing of either eye. No intention tremor, no
dysdiadochokinesia noted. 

-Gait/Station: Good initiation. Narrow-based, normal stride and
arm swing.  Able to walk on toes, heels, and in tandem without
difficulty. Romberg absent.

DISCHARGE PHYSICAL EXAMINATION
================================
PHYSICAL EXAMINATION:
Vitals:
Temp: 98.5 PO BP: 131/95 L Sitting HR: 83 RR: 19 O2 sat: 99% O2
delivery: ra 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact 
comprehension.
Speech is not dysarthric. Able to follow both midline and
appendicular commands. 

-Cranial Nerves:
Bilateral ___ nerve palsies, can abduct the right eye but cannot
___ and similarly the left eye abducts but cannot ___.  In
both directions, the outer image disappears when covering the
abducting eye. Otherwise eye movements normal with elevation and
depression. nl ___ in v1-v3, facies/ tongue/palate sym. Pupils
slightly unequal but equally reactive to light (Left larger than
Right) L ___ and R ___.

Motor/gait: Able to walk independently without evidence of
weakness

 
Pertinent Results:
LABS
___ 05:00AM BLOOD WBC-10.6* RBC-5.25 Hgb-14.8 Hct-45.3 
MCV-86 MCH-28.2 MCHC-32.7 RDW-12.0 RDWSD-37.8 Plt ___
___ 05:00AM BLOOD Glucose-112* UreaN-13 Creat-0.9 Na-143 
K-4.2 Cl-104 HCO3-25 AnGap-14
___ 05:00AM BLOOD ALT-55* AST-30 AlkPhos-53 TotBili-0.7
___ 05:14AM BLOOD %HbA1c-5.8 eAG-120
___ 05:00AM BLOOD Triglyc-78 HDL-37* CHOL/HD-3.4 LDLcalc-73
___ 05:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

CTA HEAD AND NECK
1. No evidence of an acute intracranial abnormality. 
2. The major vessels of the neck, circle of ___, and their 
principal 
intracranial branches appear normal without flow limiting 
stenosis, occlusion, or aneurysm formation. 

MRI 
No evidence of infarction, hemorrhage, or mass.
 
Brief Hospital Course:
___ year old left-handed man with a history of
polysubstance use disorder ( cocaine and heroin, denies IV drug
use) - currently in detox program - who presented with sudden
onset horizontal diplopia. Denies any other focal neurological
symptoms such as weakness, numbness, difficulty with speech or
gait. No recent illness. Did have some diarrhea and diaphoresis
in setting of detox. Last cocaine use 7 days ago. This never
happened to him before. Family history of stroke in setting of
drug use in his dad, no autoimmune disease or other neurological
disease in his family. Neurological examination notable for 
bilateral ___ nerve palsy. He underwent MRI brain w/wo which was 
normal. CTA head and neck showed was unremarkable. LP with 
opening pressure of 8, and 1 WBC, 0 RBC, protein 23, glucose 82, 
viral studies pending. ESR/CRP wnl. 
Etiology of his symptoms is sill unclear. Given how well he 
looks and work up thus far reassuring, will discharge with 
outpatient neurology and neuro-ophthalmology f/u.

===============================
-f/u with neurology
-f/u with neuro-ophthalmology 
-multiple CSF studies still pending at time of discharge, will 
need to be followed up
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral ___ nerve palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for double vision due to sixth nerve 
palsy, or abducens nerve palsy, which is a disorder associated 
with dysfunction of cranial nerve VI (the abducens nerve), which 
is responsible for causing contraction of the lateral rectus 
muscle to abduct (i.e., turn out) the eye. In your case both 
eyes are affected. You underwent MRI of your head and vessel 
imaging of your head and neck which were normal. We also 
performed a lumbar puncture which did not show high pressure or 
concern for infection. The reason for your symptoms is still 
unclear. It should get better with time. You can wear an eye 
patch until then. 

You should definitely also follow up with neuro-ophthalmology in 
clinic.

We wish you the best,

Your ___ team

 
Followup Instructions:
___